US08034812B2
Production of 3-(1-cyano-1-methylethyl)-N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-methylphenyl]benzamide
To a solution of 3-(1-cyano-1-methylethyl)benzoic acid (560 mg, 2.97 mmol) in tetrahydrofuran (15 mL) were added oxalyl chloride (320 μL, 3.71 mmol) and N,N-dimethylformamide (2 drops), and the mixture was stirred at room temperature for 1 hr. The solvent was evaporated under reduced pressure, and the residue was dissolved in N-methylpyrrolidone (15 mL). N-[6-(3-Amino-4-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (800 mg, 2.47 mmol) was added to the mixture, and the mixture was stirred at room temperature for 12 hr. The reaction mixture was diluted with 1N hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed with 5% aqueous sodium hydrogencarbonate solution and saturated brine, dried over anhydrous sodium sulfate, and filtrated. The solvent was evaporated under reduced pressure, and the residue was purified by NH silica gel column chromatography (ethyl acetate/hexane=50/50→100/0) to give a colorless oil. The oil was dissolved ethyl acetate, and diisopropyl ether was added to allow precipitation to give the title compound (220 mg, 18%) as a white solid.

reactant | 3-(1-cyano-1-methylethyl)benzoic acid | 2.97 mmol, 560 mg | C(#N)C(C)(C)C=1C=C(C(=O)O)C=CC1 | C11H11NO2
reactant | oxalyl chloride | 3.71 mmol, 320 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[6-(3-Amino-4-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 2.47 mmol, 800 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1C | C17H17N5O2
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | hydrochloric acid | 1N | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(1-cyano-1-methylethyl)-N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-methylphenyl]benzamide | 220 mg, 18% | C(#N)C(C)(C)C=1C=C(C(=O)NC2=C(C=CC(=C2)OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C)C=CC1 | C28H26N6O3
